### PR TITLE
[Merged by Bors] - feat: Refactor ConnectedComponent

### PR DESCRIPTION
**Pull request by bottine**
… in order to sync with PR 17665 on mathlib3.

See https://github.com/leanprover-community/mathlib/pull/17665

### CODE REVIEW

File: Mathlib/Combinatorics/Quiver/Symmetric.lean [hunk 1]
```diff
@@ -0,0 +1,247 @@
...
+
+universe v u
+
+namespace Quiver
+
+/-- A type synonym for the symmetrized quiver (with an arrow both ways for each original arrow).
+    NB: this does not work for `Prop`-valued quivers. It requires `[Quiver.{v+1} V]`. -/
+-- Porting note: no hasNonemptyInstnace linter yet
+def Symmetrify (V : Type _) :=
+  V
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Quiver/Symmetric.lean:34]:
```suggestion
def Symmetrify (V : Type _) := V
```

File: Mathlib/Combinatorics/Quiver/Symmetric.lean [hunk 2]
```diff
@@ -0,0 +1,247 @@
...
+  of `Symmetrify`.
+-/
+
+universe v u
+
+namespace Quiver
+
+/-- A type synonym for the symmetrized quiver (with an arrow both ways for each original arrow).
+    NB: this does not work for `Prop`-valued quivers. It requires `[Quiver.{v+1} V]`. -/
+-- Porting note: no hasNonemptyInstnace linter yet
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Quiver/Symmetric.lean:32]:
```suggestion
-- Porting note: no hasNonemptyInstance linter yet
```

File: Mathlib/Combinatorics/Quiver/ConnectedComponent.lean [hunk 3]
```diff
@@ -24,123 +22,7 @@ universe v u
...
-  · rintro X
-    rfl
-  · rintro X Y f
-    cases f
-    · rfl
-    · exact hΦinv (Sum.inl _)
-#align quiver.symmetrify.lift_unique Quiver.Symmetrify.lift_unique
-
-variable (V)
+variable (V : Type _) [Quiver.{u+1} V]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Quiver/ConnectedComponent.lean:25]:
```suggestion
variable (V : Type u) [Quiver.{v+1} V]
```
to match the mathlib PR. Feel free to do the opposite change to the mathlib PR if you prefer.

File: Mathlib/Combinatorics/Quiver/Symmetric.lean [hunk 4]
```diff
@@ -0,0 +1,247 @@
+/-
+Copyright (c) 2021 David Wärn. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: David Wärn, Antoine Labelle, Rémi Bottinelli
+Ported by: Joël Riou, Rémi Bottinelli
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Quiver/Symmetric.lean:5]: Have we actually decided to include a `Ported by:` line?

File: Mathlib/Combinatorics/Quiver/Symmetric.lean [hunk 5]
```diff
@@ -0,0 +1,247 @@
...
+
+@[simp]
+theorem reverse_reverse {V} [Quiver.{v + 1} V] [h : HasInvolutiveReverse V] {a b : V} (f : a ⟶ b) :
+    reverse (reverse f) = f := by apply h.inv'
+#align quiver.reverse_reverse Quiver.reverse_reverse
+
+@[simp]
+theorem reverse_eq_reverse_iff {V} [Quiver.{v + 1} V] [h : HasInvolutiveReverse V] {a b : V}
+    (f g : a ⟶ b) : reverse f = reverse g ↔ f = g := by
+  constructor
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Quiver/Symmetric.lean:64]:
```suggestion
  split
```

**Review by YaelDillies — APPROVED** [review]
Let's wait for the mathlib PR to get in.

File: Mathlib/Combinatorics/Quiver/Symmetric.lean (hunk 5 above)
Comment (bottine) [reply Mathlib/Combinatorics/Quiver/Symmetric.lean:64]: I think I got an error on using `split` at first: it was not supported or something.

File: Mathlib/Combinatorics/Quiver/Symmetric.lean (hunk 4 above)
Comment (bottine) [reply Mathlib/Combinatorics/Quiver/Symmetric.lean:5]: No idea, I just followed suit!

File: Mathlib/Combinatorics/Quiver/ConnectedComponent.lean (hunk 3 above)
Comment (bottine) [reply Mathlib/Combinatorics/Quiver/ConnectedComponent.lean:25]: OK, I'll change the mathlib one, because I feel like the fewer universe choices we have, the fewer opportunities to make mistakes we'll have to deal with.

File: Mathlib/Combinatorics/Quiver/Symmetric.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Quiver/Symmetric.lean:64]: Can you report that on Zulip?

**Comment by bottine** [comment]
I'm currently changing the mathlib3 PR according to Yael's suggestion. Will update this one to synchronize when the mathlib3 one gets approved.

**Comment by bottine** [comment]
NB: I believe the troubles with universes that forced the mathlib3 definition of `Quiver.Symmetrify` to be a `Sum` rather than a `Psum` disappeared with mathlib4. I've been told that it's not ideal to do such changes during the port.
When is a good time to do it?

**Comment by semorrison** [comment]
bors d+
